US08609656B2
Preparation of [9-(4-{3-[3-(2-hydroxy-1-hydroxymethyl-ethylcarbamoyl)-5-trifluoromethyl-phenyl]-ureido}phenyl)-9H-purin-6-yl]-methyl-carbamic acid tert-butyl ester
In dichloromethane (3.5 mL), 60 mg (0.105 mmol) of 3-(3-{4-[6-(tert-butoxycarbonyl-methylamino)-purin-9-yl]phenyl}ureido)-5-(trifluoromethyl)benzoic acid was dissolved, and 54.9 μL (0.63 mmol) of oxalyl chloride was slowly added thereto and the mixture solution was stirred under refluxing for 1.5 hours. The solvent was distilled under reduced pressure from the reaction solution and the obtained residue was dissolved in tetrahydrofuran (0.75 mL). The tetrahydrofuran solution thus prepared was added dropwise to a methanol (0.5 mL)/tetrahydrofuran (0.25 mL) solution of 28.7 mg (0.315 mmol) of 2-amino-1,3-propanediol and the resulting solution was stirred at room temperature for 1.5 hours. The solvent was distilled under reduced pressure from the reaction solution and the obtained residue was purified by silica gel column chromatography (dichloromethane:methanol=20:1 to 5:1) to obtain 40.8 mg (60%) of a target product as a white solid.

reactant | 3-(3-{4-[6-(tert-butoxycarbonyl-methylamino)-purin-9-yl]phenyl}ureido)-5-(trifluoromethyl)benzoic acid | 0.105 mmol, 60 mg | C(C)(C)(C)OC(=O)N(C1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(NC=1C=C(C(=O)O)C=C(C1)C(F)(F)F)=O)C | C26H24F3N7O5
reactant | oxalyl chloride | 0.63 mmol, 54.9 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methanol | 0.5 mL | CO | CH4O
reactant | 2-amino-1,3-propanediol | 0.315 mmol, 28.7 mg | NC(CO)CO | C3H9NO2
solvent | dichloromethane | 3.5 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 0.25 mL | O1CCCC1 | C4H8O
product | [9-(4-{3-[3-(2-hydroxy-1-hydroxymethyl-ethylcarbamoyl)-5-trifluoromethyl-phenyl]-ureido}phenyl)-9H-purin-6-yl]-methyl-carbamic acid tert-butyl ester | 40.8 mg, 60% | C(C)(C)(C)OC(N(C)C1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=CC(=C1)C(F)(F)F)C(NC(CO)CO)=O)=O | C29H31F3N8O6
